US07238808B2
5-[7-tert.-Butyl-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 7-tert.-butyl-5-(4-chloro-phenyl)-3-iodo-pyrazolo[1,5-a]pyrimidine (70 mg, 0.17 mmol) and 5-ethynyl-thiophene-2-sulfonamide (example D.3) (32 mg, 0.17 mmol) according to general procedure II. Obtained as a yellow solid (28 mg, 28%). MS (ISP) 471.1 [(M+H)+]; mp 253–255° C.

reactant | 7-tert.-butyl-5-(4-chloro-phenyl)-3-iodo-pyrazolo[1,5-a]pyrimidine | 0.17 mmol, 70 mg | C(C)(C)(C)C1=CC(=NC=2N1N=CC2I)C2=CC=C(C=C2)Cl | C16H15ClIN3
reactant | 5-ethynyl-thiophene-2-sulfonamide | 0.17 mmol, 32 mg | C(#C)C1=CC=C(S1)S(=O)(=O)N | C6H5NO2S2
product | 5-[7-tert.-Butyl-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiophene-2-sulfonic acid amide | C(C)(C)(C)C1=CC(=NC=2N1N=CC2C#CC2=CC=C(S2)S(=O)(=O)N)C2=CC=C(C=C2)Cl | C22H19ClN4O2S2
